US06358995B1
(C) 4-Fluoro-2,5-dimethylphenol
9.7 g of 4-fluoro-2,5-dimethylanisol was dissolved in 100 ml of dichloromethane and 76 ml of boron tribromide (1.0M dichloromethane solution) was added to the solution at 0° C. The resulting mixture was brought to room temperature, stirred for one hour, and poured into ice-water. 300 ml of ethyl acetate was added to the resultling mixture. The organic layer was washed with water, a saturated aqueous solution of sodium bicarbonate and brine successively, dried over magnesium sulfate. After the desiccant was filtered off, the resulting mixture was evaporated. The resulting crude product was purified by silica gel column chromatography to give 8.5 g of the title compound as a pale brown oil.

reactant | 4-fluoro-2,5-dimethylanisol | 9.7 g | FC1=CC(=C(C=C1C)OC)C | C9H11FO
reactant | boron tribromide | 1.0M, 76 ml | B(Br)(Br)Br | BBr3
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Fluoro-2,5-dimethylphenol | 8.5 g | FC1=CC(=C(C=C1C)O)C | C8H9FO
